Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],6.4001535017799975
[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11],-5.28138306986
[O:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7]>>[C:6][H:7].[O:1][O:2][C:3]([H:4])=[C:5],9.510436073580001
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C:5][H:6],5.584369265069999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:7],4.66352143475
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6],3.15762839578
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])=[C:12][H:13]>>[H:1][C:2]#[C:3][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])=[C:12][H:13].[H:4],1.86445658626
[O:1][C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]([H:3])[C:8]([H:9])([H:10])[H:11],0.6787518512890001
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:7],1.81639118104
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[H:7].[H:8]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[H:8],-4.546972379740001
[H:14].[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-2.18355341323
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][C:2]([H:3])=[C:9]=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],1.54535342803
[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C:3][O:4][C:5]=[C:6]([H:7])[H:8].[H:9],2.6155472861099995
[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]#[C:4][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:5][H:6],3.2898478425
[C:3]([H:4])=[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-6.384526354119999
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[C:11]([H:12])[H:13].[O:9][H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13],-6.004042505959999
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:3],5.31769779621
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]=[O:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12],-1.65742824822
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[O:8][C:9]([H:10])([H:11])[H:12].[H:7],2.28108005404
[C:1].[C:2](\[O:3][H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.91824519807
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:1][C:2],8.24255960048
[C:7](=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-2.12952966213
[C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[H:9],-7.961242427919999
[C:1]=[C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]1([H:11])[H:12]>>[C:1]#[C:2][C:10]([C:7]([C:4]([O:3])([H:5])[H:6])([H:8])[H:9])([H:11])[H:12],2.45123165445
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.02443748883
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],3.90370769
[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-0.0331606413101
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])[C:12]([H:13])([H:14])[H:15],3.21881775519
